US04707485
To a stirred suspension of 1.7 g (8.6 mmole) of 6,7-dichloroisoquinoline hydrochloride in 12 ml of methylene chloride was added 0.11 g (0.43 mmole) of 18-crown-6 followed by a solution of 1.67 g (26 mmole) of potassium cyanide in 12 ml of water. The mixture was stirred vigorously under nitrogen for 30 minutes and then a solution of 2.4 g (17.2 mmole) of benzoyl chloride in 10 ml of methylene chloride was added dropwise. After the reaction mixture was stirred at ambient temperature, under nitrogen for 3 hours, an additional 50 ml of methylene chloride and 50 ml of water was added. The organic phase was separated, washed successively with water, 5% aqueous sodium bicarbonate solution, water and brine. The solution was dried over magnesium sulfate and concentrated. The resulting oil was triturated with methanol at 0° C. to give 2-benzoyl-6,7-dichloro-1-cyano-1,2-dihydroisoquinoline, m.p. 194°-196° C.

reactant | 6,7-dichloroisoquinoline hydrochloride | 8.6 mmole, 1.7 g | Cl.ClC=1C=C2C=CN=CC2=CC1Cl
reactant | 18-crown-6 | 0.43 mmole, 0.11 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium cyanide | 26 mmole, 1.67 g | [C-]#N.[K+]
reactant | benzoyl chloride | 17.2 mmole, 2.4 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
solvent | water | 12 ml | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-benzoyl-6,7-dichloro-1-cyano-1,2-dihydroisoquinoline | C(C1=CC=CC=C1)(=O)N1C(C2=CC(=C(C=C2C=C1)Cl)Cl)C#N | C17H10Cl2N2O
